US07291631B2
To a solution of (2-formyl-pyridin-3-yl)-carbamic acid tert-butyl ester (0.581 g, 2.66 mmol) in dry MeOH (10 mL) was slowly added NaBH4 (0.200 g, 5.32 mmol). The mixture was stirred for 40 min, and saturated aqueous NaHCO3 (10 mL) was added. The MeOH was removed, and the aqueous residue was extracted with CH2Cl2 (5×25 mL). The organic extracts were combined, and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, affording (2-hydroxymethyl-pyridin-3-yl)-carbamic acid tert-butyl ester as a white solid.

reactant | (2-formyl-pyridin-3-yl)-carbamic acid tert-butyl ester | 2.66 mmol, 0.581 g | C(C)(C)(C)OC(NC=1C(=NC=CC1)C=O)=O | C11H14N2O3
reactant | NaBH4 | 5.32 mmol, 0.200 g | [BH4-].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (2-hydroxymethyl-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)CO)=O | C11H16N2O3
